US06268391B1
5-Benzoyl-3-(3-bromo-5-ethoxy4-hydroxy-benzylidene)-1,3-dihydro-indol-2-one
The title compound was synthesized in an identical manner to example 2 except 5-benzoyl oxindole was used in place of 5-(2-methyl-thiazol4-yl)-1,3-dihydro-indol-2-one hydrochloride and 3-bromo-5-ethoxy4-hydroxy-benzaldehyde was used in place of 3,5-dibromo-4-hydroxy-benzaldehyde. 1H NMR (DMSO-d6) δ1.38 (t, J=7 Hz, 3H), 4.14 (q, J=7 Hz, 2H), 6.94 (d, J=8.2 Hz, 1H), 7.50-7.68 (m, 4H), 7.69-7.72 (m, 2H), 7.90 (s, 1H), 8.14 (s, 1H), 8.34 (d, J=1.7 Hz, 1H), 8.48 (d, J=1.7 Hz, 1H), 10.15 (s, 1H), 11.02 (s, 1H); APCI-MS: m/z 464 (m−H)−. Anal. Calcd for C24H18NO4Br: C, 62.08; H, 3.91; N, 3.02; Br, 17.21. Found: C, 61.98; H, 3.88; N, 3.08; Br, 17.28.

reactant | 5-benzoyl oxindole | C(C1=CC=CC=C1)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11NO2
reactant | 3-bromo-5-ethoxy4-hydroxy-benzaldehyde | BrC=1C=C(C=O)C=C(C1O)OCC | C9H9BrO3
product | 5-Benzoyl-3-(3-bromo-5-ethoxy4-hydroxy-benzylidene)-1,3-dihydro-indol-2-one | C(C1=CC=CC=C1)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC1=CC(=C(C(=C1)OCC)O)Br | C24H18BrNO4
